US04382939
1,2,3,4-Tetrahydro-8-methyl-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one
A mixture of 1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one (2.0 g, 0.009 moles), triethylamine (1.4 ml, 0.010 moles), and 1-chloro-2-propanone (0.8 g, 0.009 moles) in ethanol (50 ml) is stirred and heated to reflux. After 20 hours the mixture is cooled and the precipitate filtered off, rinsed with ethanol, and dried to give the product (1.9 g), mp 128°-129° C.

reactant | 1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.009 moles, 2.0 g | CC1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | C13H13NO2
reactant | triethylamine | 0.010 moles, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | 1-chloro-2-propanone | 0.009 moles, 0.8 g | ClCC(C)=O | C3H5ClO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1,2,3,4-Tetrahydro-8-methyl-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 1.9 g | CC1=CC2=C(C=C1)C1=C(CN(CC1)CC(C)=O)C(O2)=O | C16H17NO3
